US04379921
The bromination of 1-(2,4-dichlorophenyl)-4,4-dimethyl-1-(4-chlorophenylsulfonyl)-pentan-3-one was carried out in the same manner as that of Example 3 but using 25 g of 1-(2,4-dichlorophenyl)-1-(4-chlorophenylsulfonyl)-4,4-dimethylpentan-3-one, 8.9 g of bromine, 200 ml of acetic acid and 300 ml of chloroform, and 24.4 g of 2-bromo-1-(2,4-dichlorophenyl)-4,4-dimethyl-1-(4-chlorophenylsulfonyl)pentan-3-one was obtained. m.p. 184°-185° C.

reactant | 1-(2,4-dichlorophenyl)-4,4-dimethyl-1-(4-chlorophenylsulfonyl)-pentan-3-one | ClC1=C(C=CC(=C1)Cl)C(CC(C(C)(C)C)=O)S(=O)(=O)C1=CC=C(C=C1)Cl | C19H19Cl3O3S
reactant | 1-(2,4-dichlorophenyl)-1-(4-chlorophenylsulfonyl)-4,4-dimethylpentan-3-one | 25 g | ClC1=C(C=CC(=C1)Cl)C(CC(C(C)(C)C)=O)S(=O)(=O)C1=CC=C(C=C1)Cl | C19H19Cl3O3S
reactant | bromine | 8.9 g | BrBr | Br2
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(2,4-dichlorophenyl)-4,4-dimethyl-1-(4-chlorophenylsulfonyl)pentan-3-one | 24.4 g | BrC(C(S(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C(C(C)(C)C)=O | C19H18BrCl3O3S
